US05852016
N-(2-bromoethyl)phthalimide (1.73 g, 6.81 mmol) was added to a refluxing mixture of N-(6,7-dichloro-2,3-dimethoxy-quinoxalin-5-yI)-methanesulphonamide (Preparation 3, 2.00 g, 5.68 mmol) and potassium carbonate (1.88 g, 13.63 mmol) in acetone (100 ml) under nitrogen. After 48 hours, further N-(2-bromoethyl)phthalimide (1.73 g, 6.81 mmol) was added and refluxing continued for 18 hours. After cooling the mixture was concentrated under reduced pressure and the residue dissolved in dichloromethane. The resulting solution was washed twice with 1N sodium hydroxide solution, water and brine and then dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (eluting with hexane:ethyl acetate) to afford N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-phthalimidoethyl) methanesulphonamide as a pale yellow solid (2.55g, 85%).

reactant | N-(2-bromoethyl)phthalimide | 6.81 mmol, 1.73 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | N-(6,7-dichloro-2,3-dimethoxy-quinoxalin-5-yI)-methanesulphonamide | 5.68 mmol, 2.00 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)C | C11H11Cl2N3O4S
reactant | potassium carbonate | 13.63 mmol, 1.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-bromoethyl)phthalimide | 6.81 mmol, 1.73 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)-N-(2-phthalimidoethyl) methanesulphonamide | 2.55g, 85% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H18Cl2N4O6S
